### PR TITLE
feat(AlgebraicTopology): pushout diagrams in the filtration of `Δ[p] ⊗ Δ[1]`

### PR DESCRIPTION
**Pull request by joelriou**
---

- [x] depends on: #41656
- [x] depends on: #41655
- [x] depends on: #41624
- [x] depends on: #41617

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicTopology/SimplicialSet/ProdStdSimplexOne.lean [hunk 1]
```diff
@@ -159,6 +197,164 @@ lemma δ_succ_nonDegenerateEquiv (j : Fin (p + 1)) :
...
+  · ext : 1
+    dsimp
+    simp only [Category.assoc]
+    rw [Subcomplex.homOfLE_ι,
+      Subcomplex.isoOfRepresentableBy_ofSimplexRepresentableBy_hom,
+      Subcomplex.isoOfRepresentableBy_ofSimplexRepresentableBy_hom]
+    dsimp [CosimplicialObject.δ]
+    rw [← dsimp% yonedaEquiv_symm_map (X := _ ⊗ _),
+      Fin.succ_castSucc, ← δ_castSucc_nonDegenerateEquiv]
+    rfl
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/SimplicialSet/ProdStdSimplexOne.lean:354]:
```suggestion
  · ext : 1
    simp [Subcomplex.isoOfRepresentableBy_ofSimplexRepresentableBy_hom,
      CosimplicialObject.δ, ← dsimp% yonedaEquiv_symm_map (X := _ ⊗ _),
      ← δ_succ_nonDegenerateEquiv, SimplicialObject.δ]
  · ext : 1
    dsimp
    simp_rw [Category.assoc, Subcomplex.homOfLE_ι,
      Subcomplex.isoOfRepresentableBy_ofSimplexRepresentableBy_hom,
      Fin.succ_castSucc, ← δ_castSucc_nonDegenerateEquiv]
    simp [SimplicialObject.δ, CosimplicialObject.δ, ← dsimp% yonedaEquiv_symm_map (X := _ ⊗ _)]
```

File: Mathlib/AlgebraicTopology/SimplicialSet/ProdStdSimplexOne.lean [hunk 2]
```diff
@@ -88,6 +89,43 @@ lemma nonDegenerateEquiv_snd (i : Fin (p + 1)) :
...
+        Fin.predAbove_of_le_castSucc _ _ (by simpa),
+        Fin.castPred_castSucc]
+    · simpa [stdSimplex.objMk₁_apply_eq_zero_iff]
+
+lemma mem_range_objEquiv_nonDegenerateEquiv₁_iff (i x : Fin (p + 1)) :
+    dsimp% (x, 1) ∈ Set.range (prodStdSimplex.objEquiv (nonDegenerateEquiv i).val) ↔ i ≤ x := by
+  constructor
+  · intro ⟨y, hy⟩
+    have hy₁ := congr_arg Prod.fst hy
+    have hy₂ := congr_arg Prod.snd hy
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/SimplicialSet/ProdStdSimplexOne.lean:117]:
```suggestion
    obtain ⟨hy₁, hy₂⟩ := Prod.ext_iff.mp hy
```
This seems slightly better.
(You can also eat the dsimp below by applying `dsimp%` to the RHS of the obtain, and change `hy₁` by a rfl. This might venture into the "too golfed for its own good" territory)

File: Mathlib/AlgebraicTopology/SimplicialSet/ProdStdSimplexOne.lean [hunk 3]
```diff
@@ -88,6 +89,43 @@ lemma nonDegenerateEquiv_snd (i : Fin (p + 1)) :
...
+    dsimp at hy₁ hy₂
+    rw [stdSimplex.objMk₁_apply_eq_one_iff, Fin.succ_castSucc, Fin.castSucc_le_castSucc_iff] at hy₂
+    rw [← hy₁, stdSimplex.objEquiv_symm_σ_apply, Fin.predAbove_of_succ_le _ _ hy₂,
+      ← Fin.succ_le_succ_iff, Fin.succ_pred]
+    exact hy₂
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/SimplicialSet/ProdStdSimplexOne.lean:122]:
```suggestion
    rwa [← hy₁, stdSimplex.objEquiv_symm_σ_apply, Fin.predAbove_of_succ_le _ _ hy₂,
      ← Fin.succ_le_succ_iff, Fin.succ_pred]
```

File: Mathlib/AlgebraicTopology/SimplicialSet/ProdStdSimplexOne.lean [hunk 4]
```diff
@@ -159,6 +197,164 @@ lemma δ_succ_nonDegenerateEquiv (j : Fin (p + 1)) :
...
+    simp only [prodStdSimplex.mem_ofSimplex_obj_iff, intersectionNondeg,
+      Subfunctor.min_obj, Set.mem_inter_iff, Equiv.apply_symm_apply] at hs ⊢
+    rintro ⟨x, y⟩ hxy
+    refine ⟨x, Prod.ext rfl ?_⟩
+    obtain ⟨x₁, h₁⟩ := hs.1 hxy
+    obtain ⟨x₂, h₂⟩ := hs.2 hxy
+    have h₁₁ := congr_arg Prod.fst h₁
+    have h₁₂ := congr_arg Prod.snd h₁
+    have h₂₁ := congr_arg Prod.fst h₂
+    have h₂₂ := congr_arg Prod.snd h₂
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/SimplicialSet/ProdStdSimplexOne.lean:227]:
```suggestion
    obtain ⟨h₁₁, h₁₂⟩ := Prod.ext_iff.mp h₁
    obtain ⟨h₂₁, h₂₂⟩ := Prod.ext_iff.mp h₂
```

File: Mathlib/AlgebraicTopology/SimplicialSet/ProdStdSimplexOne.lean [hunk 5]
```diff
@@ -159,6 +197,164 @@ lemma δ_succ_nonDegenerateEquiv (j : Fin (p + 1)) :
...
+    fin_cases y
+    · dsimp at h₁₂ h₂₂ ⊢
+      simp only [stdSimplex.objMk₁_apply_eq_zero_iff, ← Fin.le_castSucc_iff,
+        Fin.castSucc_le_castSucc_iff, Fin.castSucc_succ] at h₁₂ h₂₂ ⊢
+      rw [Fin.predAbove_of_le_castSucc _ _ h₁₂] at h₁₁
+      simpa [← h₁₁] using! h₁₂
+    · dsimp at h₁₂ h₂₂ ⊢
+      simp only [stdSimplex.objMk₁_apply_eq_one_iff, Fin.succ_le_castSucc_iff] at h₁₂ h₂₂ ⊢
+      rw [Fin.predAbove_of_castSucc_lt _ _ h₂₂] at h₂₁
+      rwa [← h₂₁, ← Fin.succ_lt_succ_iff, Fin.succ_pred]
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/SimplicialSet/ProdStdSimplexOne.lean:239]:
```suggestion
    · grind [stdSimplex.objMk₁_apply_eq_zero_iff, Fin.predAbove_of_le_castSucc, Fin.castPred]
    · grind [stdSimplex.objMk₁_apply_eq_one_iff, Fin.pred, Fin.predAbove_of_castSucc_lt]
```

File: Mathlib/AlgebraicTopology/SimplicialSet/ProdStdSimplexOne.lean [hunk 6]
```diff
@@ -159,6 +197,164 @@ lemma δ_succ_nonDegenerateEquiv (j : Fin (p + 1)) :
...
+  · dsimp [intersectionNondeg]
+    simp only [le_inf_iff, Subcomplex.ofSimplex_le_iff,
+      Subcomplex.mem_ofSimplex_obj_iff]
+    constructor
+    · refine ⟨SimplexCategory.δ j.succ.castSucc, ?_⟩
+      rw [← Fin.succ_castSucc, ← δ_succ_nonDegenerateEquiv]
+      rfl
+    · refine ⟨SimplexCategory.δ j.succ.castSucc, ?_⟩
+      rw [Fin.succ_castSucc, ← δ_castSucc_nonDegenerateEquiv]
+      rfl
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/SimplicialSet/ProdStdSimplexOne.lean:215]:
```suggestion
    refine ⟨⟨SimplexCategory.δ j.succ.castSucc, ?_⟩, ⟨SimplexCategory.δ j.succ.castSucc, ?_⟩⟩
    · simp [SimplicialObject.δ, ← δ_succ_nonDegenerateEquiv]
    · rw [Fin.succ_castSucc, ← δ_castSucc_nonDegenerateEquiv]
      rfl
```

File: Mathlib/AlgebraicTopology/SimplicialSet/ProdStdSimplexOne.lean [hunk 7]
```diff
@@ -159,6 +197,164 @@ lemma δ_succ_nonDegenerateEquiv (j : Fin (p + 1)) :
...
+  simp only [Set.mem_inter_iff, prodStdSimplex.mem_ofSimplex_obj_iff.{u},
+    ← Set.subset_inter_iff] at hx ⊢
+  refine hx.trans (fun (x, y) hxy ↦ ?_)
+  simp only [Set.mem_inter_iff] at hxy ⊢
+  fin_cases y
+  all_goals
+  · dsimp at hxy ⊢
+    simp only [mem_range_objEquiv_nonDegenerateEquiv₀_iff,
+      mem_range_objEquiv_nonDegenerateEquiv₁_iff] at hxy ⊢
+    lia
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/SimplicialSet/ProdStdSimplexOne.lean:256]: `lia` is a wrapper around `grind`, so this works.
```suggestion
  · grind [mem_range_objEquiv_nonDegenerateEquiv₀_iff,
      mem_range_objEquiv_nonDegenerateEquiv₁_iff]
```

File: Mathlib/AlgebraicTopology/SimplicialSet/ProdStdSimplexOne.lean [hunk 8]
```diff
@@ -159,6 +197,164 @@ lemma δ_succ_nonDegenerateEquiv (j : Fin (p + 1)) :
...
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/SimplicialSet/ProdStdSimplexOne.lean:273]:
```suggestion
  · grind [mem_range_objEquiv_nonDegenerateEquiv₀_iff,
      mem_range_objEquiv_nonDegenerateEquiv₁_iff]
```

File: Mathlib/AlgebraicTopology/SimplicialSet/StdSimplex.lean [hunk 9]
```diff
@@ -872,6 +897,45 @@ lemma isIso_toOfSimplex_iff :
...
+        yonedaEquiv_symm_comp, Equiv.apply_symm_apply]
+      apply NatTrans.naturality_apply }
+
+@[simp]
+lemma ofSimplexRepresentableBy_id :
+    dsimp% (ofSimplexRepresentableBy x).homEquiv (𝟙 ⦋n⦌) = x := by
+  dsimp [ofSimplexRepresentableBy]
+  simp only [Iso.homCongr_apply, Iso.refl_inv, asIso_hom,
+    Category.id_comp, yonedaEquiv_symm_comp, Equiv.apply_symm_apply,
+    toOfSimplex_app_objEquiv_symm.{u}]
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/SimplicialSet/StdSimplex.lean:924]:
```suggestion
  simp [ofSimplexRepresentableBy]
```

File: Mathlib/AlgebraicTopology/SimplicialSet/StdSimplex.lean [hunk 10]
```diff
@@ -160,11 +170,17 @@ instance (X : SSet.{u}) (n : SimplexCategory) [DecidableEq (X.obj (op n))] :
...
+lemma yonedaEquiv_symm_comp {X Y : SSet.{u}} {n : SimplexCategory} (x : X.obj (op n))
     (f : X ⟶ Y) :
     yonedaEquiv.symm x ≫ f = yonedaEquiv.symm (f.app _ x) :=
   uliftYonedaEquiv_symm_comp ..
 
+lemma yonedaEquiv_symm_map {X : SSet.{u}} {n m : SimplexCategory} (f : n ⟶ m)
+    (x : X.obj (op m)) :
+    yonedaEquiv.symm (X.map f.op x) =
+      stdSimplex.map f ≫ yonedaEquiv.symm x :=
+  uliftYonedaEquiv_symm_map ..
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/SimplicialSet/StdSimplex.lean:182]: I get that this is out of scope for this PR, but at some point we should just make `SSet.yonedaEquiv` an `abbrev` (which should be legal now that simplicial objects are abbrevs for functors).

**Review by robin-carlier — COMMENTED** [review]
Here are some local golfs.

**Comment by joelriou** [comment]
Thanks @robin-carlier for the massive golfing!
